US08471005B2
N-tert-Butyl-3-[2-(4-methyl-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-7-ylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-benzenesulfonamide
The titled compound was prepared in analogous fashion as Example 113 using N-tert-butyl-3-(2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide and 7-amino-4-methyl-4H-benzo[1,4]oxazin-3-one to give N-tert-butyl-3-[2-(4-methyl-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-7-ylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-benzenesulfonamide as a light tan solid (51.6 mg, 35.7% yield). M.p=242-246° C. LCMS (E/I+) 507 (M+H). 1H NMR (400 MHz, CDCl3) δ 8.68 (d, 2H, J=6.8 Hz), 8.20 (d, 1H, J=8 Hz), 7.84 (d, 1H, J=8.1 Hz), 7.49 (t, 1H, J=7.9 Hz), 7.21 (m, 2H), 7.10 (s, 1H), 6.99 (m, 2H), 6.82 (d, 1H, J=4.8 Hz), 5.13 (s, 1H), 4.59 (s, 2H), 3.17 (s, 3H), 1.24 (s, 9H).

reactant | N-tert-butyl-3-(2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)S(=O)C | C17H20N4O3S2
reactant | 7-amino-4-methyl-4H-benzo[1,4]oxazin-3-one | NC1=CC2=C(N(C(CO2)=O)C)C=C1 | C9H10N2O2
product | N-tert-butyl-3-[2-(4-methyl-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-7-ylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-benzenesulfonamide | 51.6 mg, 35.7% yield | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC1=C(N(C(CO1)=O)C)C=C2 | C25H26N6O4S
